simulator lang=spectre
global 0

ahdl_include "../submission/flash_thermometer_centered_sum.va"

Vb0 (b0 0) vsource type=pwl wave=[0 0 10n 0 10.1n 0.9 40n 0.9]
Vb1 (b1 0) vsource type=pwl wave=[0 0 10n 0 10.1n 0.9 40n 0.9]
Vb2 (b2 0) vsource type=pwl wave=[0 0 10n 0 10.1n 0.9 40n 0.9]
Vb3 (b3 0) vsource type=pwl wave=[0 0 20n 0 20.1n 0.9 40n 0.9]
Vb4 (b4 0) vsource type=pwl wave=[0 0 20n 0 20.1n 0.9 40n 0.9]
Vb5 (b5 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 40n 0.9]
Vb6 (b6 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 40n 0.9]
Vb7 (b7 0) vsource type=pwl wave=[0 0 30n 0 30.1n 0.9 40n 0.9]
XDUT (b0 b1 b2 b3 b4 b5 b6 b7 dout) flash_thermometer_centered_sum

tran tran stop=36n maxstep=20p
save b0 b1 b2 b3 b4 b5 b6 b7 dout
